US09233098B2
5. Preparation of ethyl 2-[3-[4-(2-naphthamido)benzyl]-1H-indazol-1-yl]acetate
630 mg (2.04 mmol) ethyl 2-[3-(4-aminobenzyl)-1H-indazol-1-yl]acetate was dissolved in 20 mL dichloromethane. 0.85 mL (6.11 mmol) triethylamine was added, and in an ice bath a dichloromethane solution dissolving 428 mg (2.25 mmol) 2-naphthoyl chloride was added slowly, and reacted in an ice bath for 3 h. An aqueous solution of sodium bicarbonate was added to quench, extracted with ethyl acetate, rotate evaporated to dryness, chromatographed on a column to obtain a white solid 850 mg, at a yield of 89.7%.

reactant | ethyl 2-[3-(4-aminobenzyl)-1H-indazol-1-yl]acetate | 2.04 mmol, 630 mg | NC1=CC=C(CC2=NN(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H19N3O2
reactant | triethylamine | 6.11 mmol, 0.85 mL | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 2.25 mmol, 428 mg | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | ethyl 2-[3-[4-(2-naphthamido)benzyl]-1H-indazol-1-yl]acetate | 850 mg, yield of 89.7% | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CC2=NN(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C29H25N3O3
